US07964645B2
Preparation of rac-4-Fluoro-N—((S)-1-{[phenyl-(3-trifluoromethyl-phenyl)-methyl]-carbamoyl}-ethyl)-benzamide
Prepared in analogy to example 1.1 from (S)-2-(4-fluoro-benzoylamino)-propionic acid (CA [214629-12-6]) and rac-C-phenyl-C-(3-trifluoromethyl-phenyl)-methylamine (CA [70428-92-1]).

reactant | (S)-2-(4-fluoro-benzoylamino)-propionic acid | FC1=CC=C(C(=O)N[C@H](C(=O)O)C)C=C1 | C10H10FNO3
reactant | rac-C-phenyl-C-(3-trifluoromethyl-phenyl)-methylamine | C1(=CC=CC=C1)C(C1=CC(=CC=C1)C(F)(F)F)N | C14H12F3N
product | rac-4-Fluoro-N—((S)-1-{[phenyl-(3-trifluoromethyl-phenyl)-methyl]-carbamoyl}-ethyl)-benzamide | FC1=CC=C(C(=O)N[C@@H](C)C(NC(C2=CC(=CC=C2)C(F)(F)F)C2=CC=CC=C2)=O)C=C1 | C24H20F4N2O2
